US08729089B2
A solution of 2-(4-fluorobenzylamino)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-4-ol (2 g), 1,2,4-triazole (1.52 g), DIEA (3.55 g) and POCl3 (3.4 g) in acetonitrile (20 mL) was stirred at room temperature for 1 hour. Ethyl acetate was added to the mixture, which was then washed twice with brine. The organic layer was dried and concentrated to provide 2.1 g of N-(4-fluorobenzyl)-6-(4-fluorophenyl)-4-(1H-1,2,4-triazol-1-yl)pyrido[3,2-d]pyrimidin-2-amine which was characterized by its mass spectrum as follows: MS (m/z) 416 [M+H]+.

reactant | 2-(4-fluorobenzylamino)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-4-ol | 2 g | FC1=CC=C(CNC=2N=C(C3=C(N2)C=CC(=N3)C3=CC=C(C=C3)F)O)C=C1 | C20H14F2N4O
reactant | 1,2,4-triazole | 1.52 g | N1N=CN=C1 | C2H3N3
reactant | DIEA | 3.55 g | CCN(C(C)C)C(C)C | C8H19N
reactant | POCl3 | 3.4 g | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-fluorobenzyl)-6-(4-fluorophenyl)-4-(1H-1,2,4-triazol-1-yl)pyrido[3,2-d]pyrimidin-2-amine | 2.1 g | FC1=CC=C(CNC=2N=C(C3=C(N2)C=CC(=N3)C3=CC=C(C=C3)F)N3N=CN=C3)C=C1 | C22H15F2N7
